.subckt distotiondevice1esd Vddin Vsw1+ Vsw1- Vsw2+ Vsw2- Vsw3+ Vsw3- Vd1 Vd2 Vmoni1 Vmoni2 Vmoni3
M1 Vd1 Vd1 Vmoni3 0 nch l=2u w=200u ad=1.4e-9 as=1.4e-9 pd=214e-6 ps=214e-6
M2 Vmoni3 Vmoni3 Vd1 0 nch l=2u w=200u ad=1.4e-9 as=1.4e-9 pd=214e-6 ps=214e-6
M3 Vd1 Vmoni2 Vmoni2 Vddin pch l=2u w=150u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M4 Vmoni2 Vd1 Vd1 Vddin pch l=2u w=150u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M7 Vmoni1 Vsw1+ Vd2 Vddin pch l=2u w=150u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M5 Vmoni1 Vmoni1 Vd1 Vmoni1 pch l=2u w=100u ad=7e-10 as=3.5e-10 pd=114e-6 ps=64e-6
M6 Vd1 Vd1 Vmoni1 Vd1 pch l=2u w=100u ad=7e-10 as=3.5e-10 pd=114e-6 ps=64e-6
M8 Vmoni1 Vsw1- Vd2 0 nch l=2u w=150u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M9 Vmoni2 Vsw2+ Vd2 Vddin pch l=2u w=150u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M10 Vmoni2 Vsw2- Vd2 0 nch l=2u w=150u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M11 Vmoni3 Vsw3+ Vd2 Vddin pch l=2u w=150u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M12 Vmoni3 Vsw3- Vd2 0 nch l=2u w=150u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M13 Vd1 Vsw1- Vmoni1 Vddin pch l=2u w=10u ad=7e-11 as=7e-11 pd=24u ps=24u
M14 Vd1 Vsw1+ Vmoni1 0 nch l=2u w=6u ad=4.2e-11 as=4.2e-11 pd=20u ps=20u
M15 Vd1 Vsw2- Vmoni2 Vddin pch l=2u w=10u ad=7e-11 as=7e-11 pd=24u ps=24u
M16 Vd1 Vsw2+ Vmoni2 0 nch l=2u w=6u ad=4.2e-11 as=4.2e-11 pd=20u ps=20u
M17 Vd1 Vsw3- Vmoni3 Vddin pch l=2u w=10u ad=7e-11 as=7e-11 pd=24u ps=24u
M18 Vd1 Vsw3+ Vmoni3 0 nch l=2u w=6u ad=4.2e-11 as=4.2e-11 pd=20u ps=20u
.ends distotiondevice1esd
