.subckt invsw VINinv VDDinv Vo- Vo+
M1 Vo- VINinv 0 0 nch l=2u w=6u ad=4.2e-11 as=4.2e-11 pd=20e-6 ps=20e-6
M2 VDDinv VINinv Vo- VDDinv pch l=2u w=10u ad=7e-11 as=7e-11 pd=24e-6 ps=24e-6
M3 Vo+ Vo- 0 0 nch l=2u w=12u ad=8.4e-11 as=8.4e-11 pd=26e-6 ps=26e-6
M4 VDDinv Vo- Vo+ VDDinv pch l=2u w=20u ad=1.4e-10 as=1.4e-10 pd=34e-6 ps=34e-6
.ends invsw
