* block symbol definitions
.subckt ishibeesd Dsw1 Dsw2 Dsw3 Dsw4 Dsw5 Dsw6 VDD Vinop1+ Vinop1- Vinop2+ Vinop2- Vbiasop1 Vbiasop2 Vind1 Vinoutd2 VN Voutd1 Voutop1 Voutop2
R5 VN VDD 10k
R6 0 VN 10k
XX2 Dsw2 VDD N003 N005 invsw
XX3 Dsw1 VDD N001 N002 invsw
XX4 Dsw3 VDD N007 N009 invsw
R7 Vbiasop2 VDD 100k
XX5 Dsw5 VDD N012 N014 invsw
XX6 Dsw4 VDD N010 N011 invsw
XX7 Dsw6 VDD N016 N018 invsw
R10 Vbiasop1 VDD 100k
R11 Vinop1+ VN 900k
XX1 Vinop1- Vinop1+ Voutop1 VDD Vbiasop1 opamp3u
XX10 Vinop2- Vinop2+ Voutop2 VDD Vbiasop2 opamp3u
XX8 VDD N002 N001 N005 N003 N009 N007 Vind1 Voutd1 N004 N006 N008 distotiondevice1esd
XX9 VDD N011 N010 N014 N012 N018 N016 VN Vinoutd2 N013 N015 N017 distotiondevice1esd
.ends ishibeesd
